2105-11-20 07:59:00 Physician Resident Progress Note
Chief Complaint: Mushroom ingestion
   24 Hour Events:
 ULTRASOUND - At [**2105-11-19**] 09:15 PM
   USG  Abdomen.
   - started cimetidine and milk thistle
   History obtained from Patient, Family / Friend, [**Hospital 1330**] Medical
   records
   Allergies:
   History obtained from Patient, Family / Friend, [**Hospital 1330**] Medical
   recordsChocolate Flavor
   Unknown;
   Last dose of Antibiotics:
   Penicillin G potassium - [**2105-11-20**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-11-20**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, Nausea, Emesis, Diarrhea
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Heme / Lymph: Coagulopathy
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2105-11-20**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 85 (81 - 119) bpm
   BP: 146/73(92) {132/59(78) - 179/83(106)} mmHg
   RR: 16 (7 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.3 kg (admission): 81.3 kg
             Total In:
                                                                    994 mL
                                                                    805 mL
   PO:
             TF:
   IVF:
                                                                    994 mL
                                                                    805 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                    385 mL
   Urine:
                                                                    860 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    134 mL
                                                                    420 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///11/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   190 K/uL
   11.2 g/dL
   186 mg/dL
   1.0 mg/dL
   11 mEq/L
   3.7 mEq/L
   18 mg/dL
   111 mEq/L
   144 mEq/L
   32.7 %
   14.9 K/uL
        [image002.jpg]
                            [**2105-11-19**]  05:32 PM
                            [**2105-11-20**]  06:09 AM
   WBC
   14.9
   Hct
   32.7
   Plt
   190
   Cr
   1.0
   Glucose
   186
   Other labs: PT / PTT / INR:29.6/45.1/2.9, CK / CKMB / Troponin-T:183//,
   ALT / AST:4825/5361, Alk Phos / T Bili:135/1.2, Lactic Acid:2.0 mmol/L,
   Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 POISONING / OVERDOSE, OTHER
 HYPERTENSION, BENIGN
   72-year-old Russian-speaking woman s/p wild mushroom ingestion admitted
   with acute hepatitis.
   .
   #Mushroom ingestion - LFT's trending up but synthetic function
   preserved
   -appreciate tox recs
   -holding activated charcoal [**3-9**] poor tolerance and giving milk thistle
   po
   -mucomyst 50 mg/kg x 4 hrs followed by 100 mg/kg x 16 hrs
   -PCN G 500,000 units/kg/day in 6 divided doses
   -cont cimetidine
   -LFTs, coags q4h
   -antiemetics prn
   -transplant surgery consult
   -hepatitis serologies to eval for underlying chronic liver disease in
   case requires transplant eval
   -transplant labs ordered
   -f/u ECHO for transplant given anginal symptoms
   .
   #AG acidosis
 may be due to borderline lactate, saline expansion &
   minimal ketonuria; serum tox neg for ASA, renal indices WNL, glucose
   only mildly elevated making DKA unlikely
   -trend with IVF
   -check lactate
   .
   #Chest pain - no evidence of acute or prior ischemic event
   -consider starting ASA
   -ECHO pending, if abnormal, cards consult
   .
   #HTN
   -hydral prn SBP>180, DBP>110
   .
   #FEN:
   -NPO
   -monitor, replete K, Ca, Mg, Ph
   -check A1c given hyperglycemia
   .
   #PPX: Cimetidine
   .
   #ACCESS: PIV; obtain PICC for better access & ease with blood draws
   given difficult stick v central line
   .
   #CODE: FULL
   .
   #CONTACT: [**Name (NI) 10734**] [**Name (NI) 10733**], [**First Name3 (LF) **], [**Telephone/Fax (3) 10735**]
   [**First Name4 (NamePattern1) 10736**] [**Known lastname 10733**] [**Telephone/Fax (3) 10737**]
   ICU Care
   Nutrition: NPO
   Glycemic Control: Insulin infusion, Blood sugar well controlled
   Lines:
   18 Gauge - [**2105-11-19**] 12:44 PM
   20 Gauge - [**2105-11-19**] 12:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication: ICU consent signed Comments: [**Name (NI) 10734**] [**Name (NI) 10733**], [**First Name3 (LF) **],
   [**Telephone/Fax (3) 10735**]
   [**First Name4 (NamePattern1) 10736**] [**Known lastname 10733**] [**Telephone/Fax (3) 10737**]
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2105-11-19**] 12:44 PM
   20 Gauge - [**2105-11-20**] 03:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2105-11-21 07:49:00 Physician Resident Progress Note
Chief Complaint: Hepatic failure
   24 Hour Events:
 EKG - At [**2105-11-20**] 08:45 AM
 MULTI LUMEN - START [**2105-11-20**] 03:23 PM
 EKG - At [**2105-11-20**] 04:00 PM
 ERCP - At [**2105-11-20**] 08:02 PM
   - R IJ CVL placed
   - 4U FFP given, nasobiliary drain attempted but unable to be placed due
   to fragile ampullary anatomy
   -silibinin infusion started, cimetidine/milk thistle/pcn stopped
   -IND & consent documented for silibinin
   -liver recommended watching for flushing, rash, maintaining adequate
   hydration during silibinin infusion
   -ECHO showed LVEF>55%, mildly dilated left atrium, mild symmetric left
   ventricular hypertrophy, and borderline pulmonary artery systolic
   hypertension
   -Cards recommended CT coronaries pre-op
   Allergies:
   Chocolate Flavor
   Unknown;
   Last dose of Antibiotics:
   Penicillin G potassium - [**2105-11-20**] 08:35 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-11-21**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 81 (74 - 102) bpm
   BP: 172/93(112) {125/56(82) - 175/97(112)} mmHg
   RR: 16 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.3 kg (admission): 81.3 kg
   Height: 69 Inch
             Total In:
                                                                  3,598 mL
                                                                  1,335 mL
   PO:
             TF:
   IVF:
                                                                  2,478 mL
                                                                  1,335 mL
   Blood products:
                                                                  1,120 mL
   Total out:
                                                                  1,945 mL
                                                                    980 mL
   Urine:
                                                                  1,795 mL
                                                                    980 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  1,653 mL
                                                                    355 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%2L
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube; mild facial flushing
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, nondistended mild RUQ midepigastric TTP
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Interacts appropriately, Oriented (to): person,
   place, time, Movement: Purposeful, Tone: Not assessed No asterixis no
   ankle clonus
   Labs / Radiology
   190 K/uL
   10.2 g/dL
   138 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.4 mEq/L
   20 mg/dL
   115 mEq/L
   150 mEq/L
   30.1 %
   7.4 K/uL
        [image002.jpg]
                            [**2105-11-19**]  05:32 PM
                            [**2105-11-20**]  06:09 AM
                            [**2105-11-20**]  09:47 AM
                            [**2105-11-21**]  05:31 AM
   WBC
   14.9
   7.4
   Hct
   32.7
   30.1
   Plt
   190
   Cr
   1.0
   1.0
   1.1
   0.9
   TropT
   <0.01
   Glucose
   186
   155
   138
   Other labs: PT / PTT / INR:22.2/36.5/2.1, CK / CKMB /
   Troponin-T:161/5/<0.01, ALT / AST:8016/6613, Alk Phos / T Bili:132/3.1,
   Lactic Acid:3.9 mmol/L, Albumin:4.0 g/dL, LDH:8960 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   72-year-old Russian-speaking woman s/p wild mushroom ingestion admitted
   with acute severe hepatitis.
   #Amanita ocreata mushroom ingestion complicated by acute severe
   hepatitis - No evidence of hepatic encephalopathy; LFTs rapidly trended
   up on admission and now appear to be stabilizing; s/p failed
   ERCP-guided nasobiliary drain placement [**11-20**]; synthetic function
   appears to be improving but confounded by FFP transfusion; tolerated
   test dose of silibinin; rising Tbili may be attributable to
   manipulation of ampulla during procedure but may also be lagging behind
   AST/ALT rise
   -cont silibinin infusion 20 mg/kg/day
   -monitor LFTs and coags q8h
   -closely monitor mental status, e/o asterixis, clonus
   -antiemetics prn
   -appreciate hepatology, transplant surgery, toxicology recs
   .
   #Thrombocytopenia
   -repeat PM CBC
   -check DIC labs
   .
   #Chest pain: EKG with strain pattern
   -NTG SL prn
   -hold off on ASA in case requires transplantation
   -CTA coronaries pending
   -appreciate cards recs
   #HTN:  Not on home meds.
   -consider starting BB once stable
   # Hypernatremia
   -change IVF to D51/2 NS
   #FEN:
   -NPO with sips, may advance to clears tonight
   -monitor, replete K, Ca, Mg, Ph
   #PPX: pneumoboots
   #CODE: FULL
   #CONTACT: [**Name (NI) 10734**] [**Name (NI) 10733**], [**First Name3 (LF) **], [**Telephone/Fax (3) 10735**]
   ICU Care
   Nutrition:
   Comments: NPO with sips, may advance to clears tonight
   Lines:
   20 Gauge - [**2105-11-20**] 03:15 AM
   18 Gauge - [**2105-11-20**] 10:00 AM
   Multi Lumen - [**2105-11-20**] 03:23 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   Code status: Full code
   Disposition: ICU

2105-11-21 11:19:00 Physician Attending Progress Note
Chief Complaint: hepatic failure, amanita poisoning
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2105-11-20**] 08:45 AM
 MULTI LUMEN - START [**2105-11-20**] 03:23 PM
 EKG - At [**2105-11-20**] 04:00 PM
   Cards consult for clearance for transplant, recc CT coronaries
 ERCP - At [**2105-11-20**] 08:02 PM - failed to place nasobiliary drain
   LFTs peaked, bili slow rise and platelets are falling
   Allergies:
   Chocolate Flavor
   Unknown;
   Last dose of Antibiotics:
   Penicillin G potassium - [**2105-11-20**] 08:35 PM
   Infusions:
   Other ICU medications:
   Other medications:
   D5
 NS at 150
   Silibilinum
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-11-21**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 86 (74 - 93) bpm
   BP: 153/74(96) {141/56(82) - 175/93(137)} mmHg
   RR: 19 (13 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.3 kg (admission): 81.3 kg
   Height: 69 Inch
             Total In:
                                                                  3,598 mL
                                                                  1,918 mL
   PO:
             TF:
   IVF:
                                                                  2,478 mL
                                                                  1,918 mL
   Blood products:
                                                                  1,120 mL
   Total out:
                                                                  1,945 mL
                                                                  1,280 mL
   Urine:
                                                                  1,795 mL
                                                                  1,280 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  1,653 mL
                                                                    638 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   Gen: lying in bed
   HEENT: op clear
   CV: RR
   Chest: CTA
   Abd: spft mild RUQ tenderness
   Ext: mild edema
   Neuro: no asterixis, conversant via interpreter
   Labs / Radiology
   10.2 g/dL
   57 K/uL
   138 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.4 mEq/L
   20 mg/dL
   115 mEq/L
   150 mEq/L
   30.1 %
   7.4 K/uL
        [image002.jpg]
                            [**2105-11-19**]  05:32 PM
                            [**2105-11-20**]  06:09 AM
                            [**2105-11-20**]  09:47 AM
                            [**2105-11-21**]  05:31 AM
   WBC
   14.9
   7.4
   Hct
   32.7
   30.1
   Plt
   190
   57
   Cr
   1.0
   1.0
   1.1
   0.9
   TropT
   <0.01
   Glucose
   186
   155
   138
   Other labs: PT / PTT / INR:21.6/35.7/2.0, CK / CKMB /
   Troponin-T:161/5/<0.01, ALT / AST:8390/6613, Alk Phos / T Bili:132/3.1,
   Amylase / Lipase:36/36, Lactic Acid:3.9 mmol/L, Albumin:4.0 g/dL,
   LDH:8960 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   S/p amanita mushroom ingestion:  with hopefully a peak in LFTs since
   last PM. Continue to trend these values every 8 hours as the tempo and
   pace of her liver dysfunction is still not clarified . Transplant
   Surgery is aware of her and the pre-transplant evaluation has been
   initiated. Still needs abd CT and coronary CT. [**Last Name (un) **] to clarify if will
   re attempt [**Last Name (un) 1292**] biliary drain
   Continue Silibinum
 need to clarify final dose
 20 mg/kg in 2 daily
   divided doses versus drip. Toxicology following; recs appreciated.
   Her falling PLts are of concern, check repeat CBC now and discuss with
   hepatology, PLt tx goal likely 20 range or active bleeding.
 HYPERTENSION, BENIGN
   Would follow for now and hold on any empiric anti-hypertensives at this
   time, pending Cardiology consult.
 CHEST PAIN: daily, Cards consulted. Plan for CT coronary. Nitro for
   symptomatic chest pain.
 F/E/N
   Sips of clears for now. Follow
lytes. Her AG acidosis is presumptively
   [**3-9**] lactate as this was elevated on admission.
   ICU Care
   Nutrition: sips/ice chips
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-11-20**] 03:15 AM
   18 Gauge - [**2105-11-20**] 10:00 AM
   Multi Lumen - [**2105-11-20**] 03:23 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication: with pt
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2105-11-22 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**11-21**]
   - LFTs trending down, TBili continues to rise
   - Holding off on CT abd and CTA coronaries as do not want to induce
   renal failure if surgery not imminent
   - Diet advanced to clear liquid diet
   History obtained from Patient, [**Hospital 1330**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Chocolate Flavor
   Unknown;
   Last dose of Antibiotics:
   Penicillin G potassium - [**2105-11-20**] 08:35 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-11-22**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 61 (60 - 86) bpm
   BP: 162/75(97) {131/65(84) - 174/83(137)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.3 kg (admission): 81.3 kg
   Height: 69 Inch
             Total In:
                                                                  4,158 mL
                                                                    502 mL
   PO:
             TF:
   IVF:
                                                                  4,158 mL
                                                                    502 mL
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                    660 mL
   Urine:
                                                                  2,170 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,988 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, sublingular icterus
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : bilateral bases, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   68 K/uL
   10.7 g/dL
   104 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.8 mEq/L
   13 mg/dL
   111 mEq/L
   144 mEq/L
   30.1 %
   6.6 K/uL
        [image002.jpg]
                            [**2105-11-19**]  05:32 PM
                            [**2105-11-20**]  06:09 AM
                            [**2105-11-20**]  09:47 AM
                            [**2105-11-21**]  05:31 AM
                            [**2105-11-21**]  10:12 AM
                            [**2105-11-21**]  11:28 AM
                            [**2105-11-21**]  02:28 PM
                            [**2105-11-21**]  08:18 PM
                            [**2105-11-22**]  03:44 AM
   WBC
   14.9
   7.4
   7.8
   6.7
   6.6
   Hct
   32.7
   30.1
   30.1
   30.7
   30.1
   Plt
   190
   57
   52
   54
   68
   Cr
   1.0
   1.0
   1.1
   0.9
   0.9
   0.8
   0.8
   0.7
   TropT
   <0.01
   Glucose
   186
   155
   138
   169
   140
   138
   104
   Other labs: PT / PTT / INR:18.0/31.7/1.6, CK / CKMB /
   Troponin-T:161/5/<0.01, ALT / AST:4696/1830, Alk Phos / T Bili:123/7.6,
   Amylase / Lipase:36/36, D-dimer:8198 ng/mL, Fibrinogen:258 mg/dL,
   Lactic Acid:3.9 mmol/L, Albumin:4.0 g/dL, LDH:8960 IU/L, Ca++:7.9
   mg/dL, Mg++:2.0 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   72-year-old Russian-speaking woman s/p wild mushroom ingestion admitted
   with acute severe hepatitis.
   #Amanita ocreata mushroom ingestion complicated by acute severe
   hepatitis - No evidence of hepatic encephalopathy; LFTs rapidly trended
   up on admission and now falling on silibinin; s/p failed ERCP-guided
   nasobiliary drain placement [**11-20**]; synthetic function appears to be
   improving; rising Tbili may be attributable to manipulation of ampulla
   during procedure but may also be lagging behind AST/ALT rise.  However,
   Tbili is a poor prognostic factor for mushroom toxicity.
   -cont silibinin infusion 20 mg/kg/day
   -monitor LFTs and coags q8h
   -closely monitor mental status, e/o asterixis, clonus
   -antiemetics prn
   -appreciate hepatology, transplant surgery, toxicology recs
   .
   #Thrombocytopenia:  Now improving .  DIC labs negative.  [**Month (only) 51**] be from
   splenomegaly, decreased thrombopoetin given liver failure.
   .
   #Chest pain: EKG with strain pattern
   -start BB
   -NTG SL prn
   -hold off on ASA in case requires transplantation
   -CTA coronaries pending
   -appreciate cards recs
   #HTN:  Not on home meds.
   -start BB
   # Hypernatremia
   -change IVF to D51/2 NS
   #FEN:
   -clear liquid
   -monitor, replete K, Ca, Mg, Ph
   #PPX: pneumoboots
    #CODE: FULL
   #CONTACT: [**Name (NI) 10734**] [**Name (NI) 10733**], [**First Name3 (LF) **], [**Telephone/Fax (3) 10735**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-11-20**] 03:15 AM
   18 Gauge - [**2105-11-20**] 10:00 AM
   Multi Lumen - [**2105-11-20**] 03:23 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2105-11-22 10:34:00 Physician Attending Progress Note
Chief Complaint: s/p amanita poisoning with liver failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - transaminases trending down but bili continues to rise
   Allergies:
   Chocolate Flavor
   Unknown;
   Last dose of Antibiotics:
   Penicillin G potassium - [**2105-11-20**] 08:35 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: icteric
   Flowsheet Data as of  [**2105-11-22**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 67 (60 - 83) bpm
   BP: 154/74(95) {131/65(84) - 179/87(114)} mmHg
   RR: 19 (14 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.3 kg (admission): 81.3 kg
   Height: 69 Inch
             Total In:
                                                                  4,158 mL
                                                                  1,014 mL
   PO:
             300 mL
   TF:
   IVF:
                                                                  4,158 mL
                                                                    714 mL
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                  1,210 mL
   Urine:
                                                                  2,170 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,988 mL
                                                                   -196 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Gen: sitting up in chair
   HEENT: op clear
   CV: RR
   Chest: faint LL crackles
   Abd: soft mild RUQ tenderness
   Ext: mild edema
   Neuro: no asterixis,
   Labs / Radiology
   10.7 g/dL
   68 K/uL
   104 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.8 mEq/L
   13 mg/dL
   111 mEq/L
   144 mEq/L
   30.1 %
   6.6 K/uL
        [image002.jpg]
                            [**2105-11-19**]  05:32 PM
                            [**2105-11-20**]  06:09 AM
                            [**2105-11-20**]  09:47 AM
                            [**2105-11-21**]  05:31 AM
                            [**2105-11-21**]  10:12 AM
                            [**2105-11-21**]  11:28 AM
                            [**2105-11-21**]  02:28 PM
                            [**2105-11-21**]  08:18 PM
                            [**2105-11-22**]  03:44 AM
   WBC
   14.9
   7.4
   7.8
   6.7
   6.6
   Hct
   32.7
   30.1
   30.1
   30.7
   30.1
   Plt
   190
   57
   52
   54
   68
   Cr
   1.0
   1.0
   1.1
   0.9
   0.9
   0.8
   0.8
   0.7
   TropT
   <0.01
   Glucose
   186
   155
   138
   169
   140
   138
   104
   Other labs: PT / PTT / INR:18.0/31.7/1.6, CK / CKMB /
   Troponin-T:161/5/<0.01, ALT / AST:4696/1830, Alk Phos / T Bili:123/7.6,
   Amylase / Lipase:36/36, D-dimer:8198 ng/mL, Fibrinogen:258 mg/dL,
   Lactic Acid:3.9 mmol/L, Albumin:4.0 g/dL, LDH:8960 IU/L, Ca++:7.9
   mg/dL, Mg++:2.0 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 CHEST PAIN
 POISONING / OVERDOSE, OTHER
 HYPERTENSION, BENIGN
   S/p Amanita mushroom ingestion:  LFTS peaked but t bili continues to
   rise.
   Transplant Surgery is aware of her and the pre-transplant evaluation
   has been initiated.
   Continue Silibinum - 20 mg/kg/d drip
   Watch bili q8
 seems like a late and persistent rise which has been
   prognostically poor in amanita poisoning but other labs (inr and LFTS
   look great) and her exam is reassuring.
 HYPERTENSION, BENIGN : Start metoprolol

 CHEST PAIN: daily, Cards consulted. Plan for CT coronary if she
   needs acute listing for Tx. Nitro for symptomatic chest pain. If doesd
   well she will need stress testing at some point.
 F/E/N: Sips of clears for now. Follow
lytes. Her AG acidosis is
   presumptively [**3-9**] lactate as this was elevated on admission
   ICU Care
   Nutrition: clears
 will ask Hepatology if can advance further or wait
   another 24 hrs
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-11-20**] 03:15 AM
   18 Gauge - [**2105-11-20**] 10:00 AM
   Multi Lumen - [**2105-11-20**] 03:23 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  with pt, and will try to speak with son as well.
   Code status: Full code
   Disposition : ICU for now given bili rise but maybe OK for floor in
   next 24 hrs if stable.
   Total time spent: 35

2105-11-23 06:58:00 Physician Resident Progress Note
Chief Complaint: amanita mushroom poisoning
   24 Hour Events:
   no overnight events
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Chocolate Flavor
   Unknown;
   Last dose of Antibiotics:
   Penicillin G potassium - [**2105-11-20**] 08:35 PM
   Infusions:
   silibinin
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: No chest pain, shortness of breath, abd pain,
   nausea, confusion
   Flowsheet Data as of  [**2105-11-23**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.3
   HR: 57 (56 - 77) bpm
   BP: 156/85(103) {142/70(56) - 179/95(114)} mmHg
   RR: 16 (16 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 81.3 kg (admission): 81.3 kg
   Height: 69 Inch
             Total In:
                                                                  2,521 mL
                                                                    235 mL
   PO:
                                                                  1,280 mL
             TF:
   IVF:
                                                                  1,241 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    800 mL
   Urine:
                                                                  2,480 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     41 mL
                                                                   -565 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, sublingular icterus
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : bilateral bases, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   No asterixis, ankle clonus
   Labs / Radiology
   90 K/uL
   10.5 g/dL
   100 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.5 mEq/L
   12 mg/dL
   107 mEq/L
   142 mEq/L
   29.8 %
   6.8 K/uL
        [image002.jpg]
                            [**2105-11-20**]  09:47 AM
                            [**2105-11-21**]  05:31 AM
                            [**2105-11-21**]  10:12 AM
                            [**2105-11-21**]  11:28 AM
                            [**2105-11-21**]  02:28 PM
                            [**2105-11-21**]  08:18 PM
                            [**2105-11-22**]  03:44 AM
                            [**2105-11-22**]  09:23 AM
                            [**2105-11-22**]  05:27 PM
                            [**2105-11-23**]  03:02 AM
   WBC
   7.4
   7.8
   6.7
   6.6
   7.2
   6.8
   6.8
   Hct
   30.1
   30.1
   30.7
   30.1
   30.4
   29.1
   29.8
   Plt
   57
   52
   54
   68
   68
   80
   90
   Cr
   1.1
   0.9
   0.9
   0.8
   0.8
   0.7
   0.7
   0.8
   TropT
   <0.01
   Glucose
   138
   169
   140
   138
   104
   122
   100
   Other labs: PT / PTT / INR:16.5/30.9/1.5, CK / CKMB /
   Troponin-T:161/5/<0.01, ALT / AST:3315/673, Alk Phos / T Bili:148/8.7,
   Amylase / Lipase:36/36, D-dimer:8198 ng/mL, Fibrinogen:258 mg/dL,
   Lactic Acid:3.9 mmol/L, Albumin:4.0 g/dL, LDH:377 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   72-year-old Russian-speaking woman s/p wild mushroom ingestion admitted
   with acute severe hepatitis.
   .
   #Amanita ocreata mushroom ingestion complicated by acute severe
   hepatitis - No evidence of hepatic encephalopathy; LFTs rapidly trended
   up on admission and now falling on silibinin; s/p failed ERCP-guided
   nasobiliary drain placement [**11-20**]; synthetic function appears to be
   improving; rising Tbili may be attributable to manipulation of ampulla
   during procedure but may also be lagging behind AST/ALT rise. Will
   continue to monitor closely as Tbili may be a poor prognostic factor
   for mushroom toxicity; tolerating regular diet
   -cont silibinin infusion 20 mg/kg/day, until INR < 1.2 or 5 day course
   (day 4)
   -monitor LFTs and coags q8h
   -closely monitor mental status, e/o asterixis, clonus
   -appreciate hepatology, transplant surgery, toxicology recs
   .
   #Thrombocytopenia:  Stable, no e/o DIC by labs; may be due to decreased
   thrombopoetin production in the setting of hepatotoxicity; has not
   received heparin products
   -cont monitor
   .
   #Chest pain: EKG with strain pattern
   -started BB
   -NTG SL prn
   -hold off on ASA in case requires transplantation (will start on
   discharge)
   -CTA coronaries on hold as appears as if may avoid transplant
   -appreciate cards recs
   .
   #HTN:  Not on home meds
   -started BB
    .
   #FEN:
   -tolerated reg diet , ADAT
   -monitor, replete K, Ca, Mg, Ph
   .
   #PPX: [**Last Name (LF) **], [**First Name3 (LF) **] ambulate with RN/PT
   .
    #CODE: FULL
   .
   #CONTACT: [**Name (NI) 10734**] [**Name (NI) 10733**], [**First Name3 (LF) **], [**Telephone/Fax (3) 10735**]
   ICU Care
   Nutrition: HH diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-11-20**] 03:15 AM
   Multi Lumen - [**2105-11-20**] 03:23 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   Code status: Full code
   Disposition: ICU until bilirubin clearly plateauing or decreasing